US04009022
Preparation of 4,4'-dimethylbenzil hydrazone
To a hot solution of 10 g 4,4'-dimethylbenzil in 20 ml of ethanol is added 2.1 g of hydrazine hydrate. After a few minutes at reflux, a solid begins to crystallize. Heating is continued for 10 min. and the solution cooled slowly to 0° C. The solid is filtered off and washed with cold ethanol. The product is recrystallized from ethanol. Yield 7.1 g. M.P. 137°-140°.

reactant | 4,4'-dimethylbenzil | 10 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
reactant | hydrazine hydrate | 2.1 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,4'-dimethylbenzil hydrazone | CC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)C)=NN | C16H16N2O
